US06281204B1
Stage A: 2-[2-[[(1,1-dimethylethyl) dimethylsilyl]oxy]ethoxy]ethanol.
20 g of diethyleneglycol is added to 9.05 g of sodium hydride in 320 cm3 of tetrahydrofuran, the reaction medium is agitated for 45 minutes, 28.3 g of dimethylterbutylsilane chloride is added, agitation is carried out for 3 hours while leaving the temperature to return to ambient. Extraction is carried out with ether, followed by washing with an aqueous solution of sodium bicarbonate, with salt water, drying and evaporating the solvent. 40.25 g of expected product is obtained.

reactant | diethyleneglycol | 20 g | C(COCCO)O | C4H10O3
reactant | sodium hydride | 9.05 g | [H-].[Na+]
reactant | dimethylterbutylsilane chloride | 28.3 g | [Cl-].C[SiH](C(C)(C)C)C
solvent | tetrahydrofuran | 320 cm3 | O1CCCC1 | C4H8O
product | 2-[2-[[(1,1-dimethylethyl) dimethylsilyl]oxy]ethoxy]ethanol | 40.25 g | CC(C)(C)[Si](OCCOCCO)(C)C | C10H24O3Si
